US04667032
2,4-Di-t-butyl-1H-phenothiazin-1-one
To a solution of 4.4 gm of 3,5-di-t-butyl-1,2-benzoquinone in 20 ml of ether was added a solution of 1.25 g of 2-aminothiophenol in 5 ml of ether. After stirring for 1 hour at 25°, the reaction mixture was evaporated. The residue was purified by flash chromatography on silica gel using 2% ethyl acetate in benzene as eluent. There was thus obtained 860 mg of the title compound as dark blue plates, m.p. 137°-141°.

reactant | 3,5-di-t-butyl-1,2-benzoquinone | 4.4 gm | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | 2-aminothiophenol | 1.25 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 2,4-Di-t-butyl-1H-phenothiazin-1-one | C(C)(C)(C)C=1C(C2=NC3=CC=CC=C3SC2=C(C1)C(C)(C)C)=O | C20H23NOS
